US07759366B2
1.3 g of tert-butyl (2-hydroxymethylphenyl)carbamate were dissolved in 20 ml of dichloromethane; at 5° C., a solution of 630 mg of phosphorus tribromide in 5 ml of DCM was then added dropwise. The reaction mixture was subsequently stirred at 5° C. for 2 h. For workup, the mixture was admixed cautiously with solid sodium hydrogencarbonate and 1 ml of water, stirred at 5° C. for 30 min, filtered through a cartridge and concentrated under reduced pressure. tert-Butyl (2-bromomethylphenyl)carbamate was obtained in a 67% yield. 1H NMR: 8.71, s, 1H, 7.45, d, 1H, 7.42, d, 1H, 7.3, t, 1H, 7.1, t, 1H; 4.78, 2, 2H, 1.45, s, 9H.

reactant | tert-butyl (2-hydroxymethylphenyl)carbamate | 1.3 g | OCC1=C(C=CC=C1)NC(OC(C)(C)C)=O | C12H17NO3
reactant | phosphorus tribromide | 630 mg | P(Br)(Br)Br | Br3P
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | water | 1 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl (2-bromomethylphenyl)carbamate | 67% yield | BrCC1=C(C=CC=C1)NC(OC(C)(C)C)=O | C12H16BrNO2
